US04454320
5-Hydroxy-5-(5-phenyl-2-furyl)-2,4,6(1H,3H,5H)-pyrimidinetrione (0.7 g.) was dissolved in 15 ml. of 1 N sodium hydroxide, stirred at room temperature for 15 minutes, extracted with ethyl acetate, made slightly acidic with about 1 ml. of glacial acetic acid, and extracted with 25 ml. of ethyl acetate. The latter ethyl acetate extract was back washed with about 6.5 ml. of water, filtered over a bed of anhydrous magnesium sulfate and evaporated to yield solid 5-(5-phenyl-2-furyl)oxazolidine-2,4-dione [100 mg.; m.p. 216°-218° C.; Rf 0.6 (1:1 hexane:ethyl acetate/5% acetic acid)].

reactant | 5-Hydroxy-5-(5-phenyl-2-furyl)-2,4,6(1H,3H,5H)-pyrimidinetrione | 0.7 g | OC1(C(NC(NC1=O)=O)=O)C=1OC(=CC1)C1=CC=CC=C1 | C14H10N2O5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 5-(5-phenyl-2-furyl)oxazolidine-2,4-dione | 100 mg, 5% | C1(=CC=CC=C1)C1=CC=C(O1)C1C(NC(O1)=O)=O | C13H9NO4
